US05698548
Slowly add a solution of diethyl 2-benzylmalonate (20 g) in Et2O (300 mL) to a slurry of LiAlH4 (6 g) in Et2O (300 mL), then heat the reaction mixture at reflux for 14 h. Carefully add 4N NaOH to the reaction mixture until there is no precipitate, then extract with EtOAc. Concentrate the organic layer and purify the crude product on a silica gel column, eluting with EtOAc to obtain 2-benzyl-1,3-propanediol (8.45 g).

reactant | diethyl 2-benzylmalonate | 20 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | LiAlH4 | 6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 4N | [OH-].[Na+]
solvent | Et2O | 300 mL | CCOCC | C4H10O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 2-benzyl-1,3-propanediol | 8.45 g | C(C1=CC=CC=C1)C(CO)CO | C10H14O2
